US03979416
3-Nitrophthalic anhydride was prepared from 3-nitrophthalic acid and acetic anhydride by the same procedure given for its 4-nitro isomer in Example 2. The yield of recrystallized product was 17.85 g (92.5%); m.p. 163°-164°C, whose percent elemental analysis of C, 49.79; H, 1.57; N, 7.22 is in excellent agreement with the theoretical values.

reactant | 3-nitrophthalic acid | [N+](=O)([O-])C1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H5NO6
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Nitrophthalic anhydride | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3NO5
